US09238639B2
C) Methyl 4-((2,5-dichloro-3-methoxyphenyl)sulfanyl)-3-oxobutanoate
To a mixture of 2,5-dichloro-3-methoxybenzenethiol (2.36 g) and DMF (dry) (60 mL) were added K2CO3 (1.72 g) and methyl 4-chloro-3-oxobutanoate (1.46 mL) at 0° C. The mixture was stirred at room temperature for 2 h. The mixture was diluted with water and extracted with EtOAc. The organic layer was washed successively with water and brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (3.37 g).

reactant | 2,5-dichloro-3-methoxybenzenethiol | 2.36 g | ClC1=C(C=C(C=C1OC)Cl)S | C7H6Cl2OS
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 1.72 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 4-chloro-3-oxobutanoate | 1.46 mL | ClCC(CC(=O)OC)=O | C5H7ClO3
solvent | water | O | H2O
product | Methyl 4-((2,5-dichloro-3-methoxyphenyl)sulfanyl)-3-oxobutanoate | 3.37 g | ClC1=C(C=C(C=C1OC)Cl)SCC(CC(=O)OC)=O | C12H12Cl2O4S
